US05891881
9-[2'-Hydroxy-3'-octadecylthiopropyl]-adenine
A mixture of adenine (0.829 g, 6.10 mmol), anhydrous potassium carbonate (45 mg) and rac-1,2-epoxy-3-octadecylthiopropane (2.0 g, 5.83 mmol) in anhydrous dimethyl formamide (10 mL) is stirred at 70°-75° C. for 20 hours under a nitrogen atmosphere. The reaction mixture is filtered directly without cooling and the filtrate is concentrated under reduced pressure to afford a white residue. The residue is stirred with 95:5 (v/v) chloroform-methanol. The insoluble solid is filtered, purified by chromatography, and dried in vacuo to 9-[2'-hydroxy-3'-octadecylthiopropyl]-adenine.

reactant | adenine | 6.10 mmol, 0.829 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | potassium carbonate | 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | rac-1,2-epoxy-3-octadecylthiopropane | 5.83 mmol, 2.0 g | O1CC1CSCCCCCCCCCCCCCCCCCC | C21H42OS
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | 9-[2'-Hydroxy-3'-octadecylthiopropyl]-adenine | OC(CN1C2=NC=NC(=C2N=C1)N)CSCCCCCCCCCCCCCCCCCC | C26H47N5OS
